datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CNCC[NH:10]CCN.O=[N+]([O-])c1cc(Br)c([O:21][H:20])c(Br)c1>>CNCC[NH+:10](CCN)[H:20].O=[N+]([O-])c1cc(Br)c([O-:21])c(Br)c1 10=20;20,21=21",
"CNC(=O)c1cc[n:10]cc1.FC(F)(F)c1nc2ncncc2[n:21]1[H:20]>>CNC(=O)c1cc[n+:10]([H:20])cc1.FC(F)(F)c1nc2ncncc2[n-:21]1 10=20;20,21=21",
"CCOC(=O)COc1ccc(C(=O)c2ccc([O:21][H:20])c(C[NH3+])c2)c(Cl)c1Cl.O=[Se](c1cccc(-c2ccccc2)c1)[O-:10]>>CCOC(=O)COc1ccc(C(=O)c2ccc([O-:21])c(C[NH3+])c2)c(Cl)c1Cl.O=[Se](c1cccc(-c2ccccc2)c1)[O:10][H:20] 10=20;20,21=21",
"CC(=O)c1ccc([S:21][H:20])cc1.Nc1c[n-:10]nc1[N+](=O)[O-]>>CC(=O)c1ccc([S-:21])cc1.Nc1c[n:10]([H:20])nc1[N+](=O)[O-] 10=20;20,21=21",
"CN1CCCC2CC[N:10]=C21.Nc1ccc(Cl)cc1[NH2+:21][H:20]>>CN1CCCC2CC[N+:10]([H:20])=C21.Nc1ccc(Cl)cc1[NH2:21] 10=20;20,21=21",
"C=CC[NH:10]CCCCCCCCCCC(=O)[O-].CS/C(Nc1ccccc1)=[NH+:21]/[H:20]>>C=CC[NH+:10](CCCCCCCCCCC(=O)[O-])[H:20].CSC(Nc1ccccc1)=[NH:21] 10=20;20,21=21",
"CC(C)(c1ccccc1)[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC(C)(c1ccccc1)[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC1(C)CC2CC[N:10]1C(=O)C2.Nc1cc2cc3ccccc3cc2[n+:21]([H:20])c1>>CC1(C)CC2CC[N+:10]1([H:20])C(=O)C2.Nc1cc2cc3ccccc3cc2[n:21]c1 10=20;20,21=21",
"Oc1ccc2nc3ccccc3[n+:21]([H:20])c2c1.[NH3+]CCC(=O)NC(Cc1c[nH]c[n:10]1)C(=O)[O-]>>Oc1ccc2nc3ccccc3[n:21]c2c1.[NH3+]CCC(=O)NC(Cc1c[nH]c[n+:10]1[H:20])C(=O)[O-] 10=20;20,21=21",
"CNCC[N:10](C)CCN.COc1c(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N+:21]3(Cc2ccccc2)[H:20])cccc1[N+](=O)[O-]>>CNCC[N+:10](C)(CCN)[H:20].COc1c(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N:21]3Cc2ccccc2)cccc1[N+](=O)[O-] 10=20;20,21=21",
"Ic1ccc(-c2nnn[n-:10]2)cc1.[NH3+]C(Cn1cccn1)C(=O)[O:21][H:20]>>Ic1ccc(-c2nnn[n:10]2[H:20])cc1.[NH3+]C(Cn1cccn1)C(=O)[O-:21] 10=20;20,21=21",
"COC(=O)[C@H]1[C@H]2CC[C@@H](C[C@H]1OC(=O)c1ccccc1)[N+:21]2(C)[H:20].O=N/C(=N/[O-:10])c1ccccc1>>COC(=O)[C@H]1[C@H]2CC[C@@H](C[C@H]1OC(=O)c1ccccc1)[N:21]2C.O=N/C(=N/[O:10][H:20])c1ccccc1 10=20;20,21=21",
"SCC[NH:10]CCc1ccccc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>SCC[NH+:10](CCc1ccccc1)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"c1ccc2c(c1)CC[NH+:21]([H:20])C2.c1ccc2c[n:10]ccc2c1>>c1ccc2c(c1)CC[NH:21]C2.c1ccc2c[n+:10]([H:20])ccc2c1 10=20;20,21=21",
"C[N+:21]1([H:20])CC[NH2+]CC1.Nc1c(C(=O)[O-:10])[nH+]cn1[C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O>>C[N:21]1CC[NH2+]CC1.Nc1c(C(=O)[O:10][H:20])[nH+]cn1[C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O 10=20;20,21=21",
"N#Cc1ccccc1-c1nnn[n:21]1[H:20].c1ccc(C(c2ccncc2)(c2ccccn2)[O-:10])nc1>>N#Cc1ccccc1-c1nnn[n-:21]1.c1ccc(C(c2ccncc2)(c2ccccn2)[O:10][H:20])nc1 10=20;20,21=21",
"CC(C[N+:21](C)(C)[H:20])[NH+](C)C.Nc1c2ccccc2[nH+]c2cc([O-:10])ccc12>>CC(C[N:21](C)C)[NH+](C)C.Nc1c2ccccc2[nH+]c2cc([O:10][H:20])ccc12 10=20;20,21=21",
"C1OC1C[N+:21](CC1CO1)(CC1CO1)[H:20].O=C([O-])c1ccccc1-n1nc([O-:10])cc1-c1ccccc1>>C1OC1C[N:21](CC1CO1)CC1CO1.O=C([O-])c1ccccc1-n1nc([O:10][H:20])cc1-c1ccccc1 10=20;20,21=21",
"C[N:10](C)Cc1ccc(O)c(O)c1O.O=C(/C=C(\I)c1ccccc1)[O:21][H:20]>>C[N+:10](C)(Cc1ccc(O)c(O)c1O)[H:20].O=C(/C=C(\I)c1ccccc1)[O-:21] 10=20;20,21=21",
"CCCCC1(CC)C(=O)NC(=S)[N-:10]C1=O.CCc1cc(C)[n+:21]([H:20])nc1C>>CCCCC1(CC)C(=O)NC(=S)[N:10]([H:20])C1=O.CCc1cc(C)[n:21]nc1C 10=20;20,21=21",
"CC[N:10](CC)CC1CO1.N[N:21](C(=O)C1(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C1(F)F)[H:20]>>CC[N+:10](CC)(CC1CO1)[H:20].N[N-:21]C(=O)C1(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C1(F)F 10=20;20,21=21",
"CC(=O)O[O:21][H:20].c1ccc(C(c2ccncc2)(c2ccncc2)[O-:10])nc1>>CC(=O)O[O-:21].c1ccc(C(c2ccncc2)(c2ccncc2)[O:10][H:20])nc1 10=20;20,21=21",
"CCC[NH2+]CC[NH:10]CCC.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCC[NH2+]CC[NH+:10](CCC)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=O)N(N)C1CC[N:10](C)CC1.c1ccc(-c2cc[n+:21]([H:20])[nH]2)[nH+]c1>>CC(=O)N(N)C1CC[N+:10](C)([H:20])CC1.c1ccc(-c2cc[n:21][nH]2)[nH+]c1 10=20;20,21=21",
"CC(C[NH2:10])c1ccccc1.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC(C[NH2+:10][H:20])c1ccccc1.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"O=[PH]([O-])C(NCc1cccnc1)c1ccccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=[PH]([O-])C(NCc1cccnc1)c1ccccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCc1[nH]c2ccc(OCC)cc2[n:10]1.NNC(=O)c1cc[n+:21]([H:20])cc1>>CCCc1[nH]c2ccc(OCC)cc2[n+:10]1[H:20].NNC(=O)c1cc[n:21]cc1 10=20;20,21=21",
"CC[N+:21](CC)(C(C)(C)C=O)[H:20].[NH3+][C@H]1CCC[C@H](C(=O)[O-:10])C1>>CC[N:21](CC)C(C)(C)C=O.[NH3+][C@H]1CCC[C@H](C(=O)[O:10][H:20])C1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20].c1c(CN2CCNCC[NH2+]CC2)n[nH]c1CN1CCNCC[NH:10]CC1>>O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-].c1c(CN2CCNCC[NH2+]CC2)n[nH]c1CN1CCNCC[NH+:10]([H:20])CC1 10=20;20,21=21",
"CCCC[O-:10].C[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>CCCC[O:10][H:20].C[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
